US04853410
7-Chloro-6-nitro-2-methylchroman-4-one
7-Chloro-2-methylchroman-4-one (4.56 g, 23.2 mmol) was dissolved in 7 ml concentrated sulfuric acid at 0°-5° C. and cooled in an acetone-ice bath. Nitric acid (1.41 ml, s.g. 1.5, 90%) in 3 ml concentrated sulfuric acid was added dropwise over 20 minutes. The resulting viscous mixture was poured into 150 ml ice and water and extracted with 200 ml ethyl acetate. The organic layer was separated, washed 4×50 ml water and then brine, dried over magnesium sulfate, and stripped to a tan solid, 5.8 g. The latter was chromatographed on 500 cc silica gel, initially eluting with 5 liters 1:10 diethyl ether:hexane to remove starting material and then with 5 liters of 1:5 diethyl ether:hexane to obtain title product as a white solid, 2 g (36%); m/e 241(P+), 226, 199, 183, 169, 154, 141. 1H-NMR indicates contamination with about 44% of the 7-chloro-8-nitro isomer.

reactant | 7-Chloro-2-methylchroman-4-one | 23.2 mmol, 4.56 g | ClC1=CC=C2C(CC(OC2=C1)C)=O | C10H9ClO2
reactant | Nitric acid | 1.41 ml | [N+](=O)(O)[O-] | HNO3
reactant | water | O | H2O
solvent | sulfuric acid | 7 ml | S(O)(O)(=O)=O | H2O4S
solvent | sulfuric acid | 3 ml | S(O)(O)(=O)=O | H2O4S
product | 7-Chloro-6-nitro-2-methylchroman-4-one | ClC1=C(C=C2C(CC(OC2=C1)C)=O)[N+](=O)[O-] | C10H8ClNO4
